US03971773
C. 21-Chloro-11β,17-dihydroxy-16α-(2-mesyloxyethoxy)pregna-1,4-diene-3,20-dione
A solution of 21-chloro-11β,17-dihydroxy-16α-(2-hydroxyethoxy)pregna-1,4-diene-3,20-dione (7.6 mmoles) in 30 ml of pyridine is cooled to 0°C and 1 ml of methanesulfonyl chloride is added. After 2 hours the mixture is poured into cold dilute hydrochloric acid and extracted with chloroform. The chloroform solution is dried and evaporated in vacuo to yield the title compound.

reactant | 21-chloro-11β,17-dihydroxy-16α-(2-hydroxyethoxy)pregna-1,4-diene-3,20-dione | 7.6 mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCCO)O)=O | C23H31ClO6
reactant | methanesulfonyl chloride | 1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 21-Chloro-11β,17-dihydroxy-16α-(2-mesyloxyethoxy)pregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCCOS(=O)(=O)C)O)=O | C24H33ClO8S
